US08304036B2
1.80 g (4.85 mmol) of ethyltriphenylphosphonium bromide are initially introduced in 8 ml of THF at 0° C., and 533 mg (4.75 mmol) of potassium tert-butoxide are added. After 1.5 h at RT, a solution of 1.16 g (3.23 mmol) of 5-[4-(4-propylcyclohexyl)phenyl]selenophene-2-carbaldehyde in 7 ml of THF is added, and the batch is stirred for 2.5 h. The mixture is diluted with MTBE, and sat. ammonium chloride soln. and 2 N hydrochloric acid are added. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane→n-heptane:EtOAc=20:1). 2-(Propenyl)-5-[4-(4-propylcyclohexyl)phenyl]selenophene is obtained as an E/Z isomer mixture.

reactant | potassium tert-butoxide | 4.75 mmol, 533 mg | CC(C)([O-])C.[K+]
reactant | 5-[4-(4-propylcyclohexyl)phenyl]selenophene-2-carbaldehyde | 3.23 mmol, 1.16 g | C(CC)C1CCC(CC1)C1=CC=C(C=C1)C1=CC=C([Se]1)C=O | C20H24OSe
reactant | hydrochloric acid | 2 N | Cl | ClH
catalyst | ethyltriphenylphosphonium bromide | 4.85 mmol, 1.80 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-(Propenyl)-5-[4-(4-propylcyclohexyl)phenyl]selenophene | C(=CC)C=1[Se]C(=CC1)C1=CC=C(C=C1)C1CCC(CC1)CCC | C22H28Se
